US08097610B2
To a mixture of 4-chloro-3-methylcresol (15.0 g; 0.105 mol), N,N-diisopropylethylamine (23.3 ml; 0.137 mol) and THF (150 ml), was added dropwise chloromethylmethyl ether (9.50 ml; 0.126 mol) at room temperature. The mixture was stirred at 60° C. for 27.5 hours. The reaction solution was poured into ice water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulphate, and evaporated under reduced pressure. The residue was purified by column chromatograph on silica gel (hexane:ethyl acetate=5:1) to give 2-chloro-5-(methoxyethoxy)toluene as dark reddish-brown oil (17.7 g; 90%).

reactant | 4-chloro-3-methylcresol | 0.105 mol, 15.0 g | ClC=1C(=C(C(=CC1)O)C)C | C8H9ClO
reactant | N,N-diisopropylethylamine | 0.137 mol, 23.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethylmethyl ether | 0.126 mol, 9.50 ml | ClCOC | C2H5ClO
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-chloro-5-(methoxyethoxy)toluene | ClC1=C(C=C(C=C1)OCCOC)C | C10H13ClO2
